US04168248
PREPARATION OF 3-METHYL-NONAN-1-OL
52 G. of 3-methyl-2-nonen-1-ol were hydrogenated for 4 hours in the presence of Raney nickel catalyst at an initial pressure of 50 pounds per square inch until the theoretical amount of hydrogen was consumed. The hydrogenated material was fractionated through a 1/2 foot Vigreux column. 48.6 G. distilled at 108° C. under 10 mm. pressure, representing the desired 3-methylnonan-1-ol. The product had a refractive index at 20° C. of 1.4384. There was a residue of 3.4 g.

reactant | 3-methyl-2-nonen-1-ol | CC(=CCO)CCCCCC | C10H20O
catalyst | Raney nickel | [Ni] | Ni
product | 3-METHYL-NONAN-1-OL | CC(CCO)CCCCCC | C10H22O
